US05753664
5-Tert-butyl-2-[4-(2,4-dichlorobenzoyl)benzyl]-2H-pyrazolo [3,4-d]pyridazin-4(5H)-one (B)
In DMF (5 ml) was dissolved 5-t-butyl-1H-pyrazolo [3,4-d]pyridazin-4(5H)-one (288 mg) followed by addition of 4-(2,4-dichlorobenzoyl)benzyl bromide (791 mg) and potassium carbonate (318 mg), and the mixture was stirred at room temperature for 15 hours. This reaction mixture was extracted with ethyl acetate and the organic layer was serially washed with water and saturated aqueous NaCl solution, dried over anhydrous magnesium sulfate, and concentrated. The residue was purified by silica gel column chromatography (n-hexaneethyl acetate=1:1). Then, 5-t-butyl-2-[4-(2,4-dichlorobenzoyl)benzyl]-2H-pyrazolo [3,4-d]pyridazin-4(5H)-one was washed with n-hexane-diethyl ether and dried.

reactant | 5-t-butyl-1H-pyrazolo [3,4-d]pyridazin-4(5H)-one | 288 mg | C(C)(C)(C)N1N=CC2=C(C1=O)C=NN2 | C9H12N4O
reactant | 4-(2,4-dichlorobenzoyl)benzyl bromide | 791 mg | ClC1=C(C(=O)C2=CC=C(CBr)C=C2)C=CC(=C1)Cl | C14H9BrCl2O
reactant | potassium carbonate | 318 mg | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | 5-Tert-butyl-2-[4-(2,4-dichlorobenzoyl)benzyl]-2H-pyrazolo [3,4-d]pyridazin-4(5H)-one | C(C)(C)(C)N1N=CC=2C(C1=O)=CN(N2)CC2=CC=C(C=C2)C(C2=C(C=C(C=C2)Cl)Cl)=O | C23H20Cl2N4O2
